US06569885B1
Preparation of 1-(4-Bromophenyl)-3,5-dimethyl-1H-pyrazole-4-carboxylic Acid Ethyl Ester
p-Bromophenylhydrazine hydrochloride (10 mmol, 2.5 g) was added to 2-acetyl-3-oxo-butyric acid ethyl ester (10 mmol, 1.7 g) in ethanol (10 mL) and pyridine (10 mL). The mixture was stirred overnight at room temperature. Thin layer chromatographic (TLC) analysis using chloroform indicated the reaction was complete. The solvents were removed under vacuum. The residue was dissolved in 150 mL ether, then washed with 50 mL water to remove the pyridine. The ether, was dried over sodium sulfate (NaSO4), the solids filtered, then the solvents were removed under vacuum. The resulting oil was purified on a silica column. The named product crystallized upon standing in the column effluent, m.p. 71° C.-73° C. Analysis by 1H-NMR and 13C-NMR verified synthesis the named product.

reactant | p-Bromophenylhydrazine hydrochloride | 10 mmol, 2.5 g | Cl.BrC1=CC=C(C=C1)NN
reactant | 2-acetyl-3-oxo-butyric acid ethyl ester | 10 mmol, 1.7 g | C(C)OC(C(C(C)=O)C(C)=O)=O | C8H12O4
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | ethanol | 10 mL | C(C)O | C2H6O
solvent | pyridine | 10 mL | N1=CC=CC=C1 | C5H5N
product | 1-(4-Bromophenyl)-3,5-dimethyl-1H-pyrazole-4-carboxylic Acid Ethyl Ester | C(C)OC(=O)C=1C(=NN(C1C)C1=CC=C(C=C1)Br)C | C14H15BrN2O2
